Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Keflex
 
Attending: ___.
 
Chief Complaint:
dizzy
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
PCP: 
Name: ___ 
Location: ___ OF GERONTOLOGY 
Address: ___, ___ 
Phone: ___ 
Fax: ___ 
Email: ___ 

CC:dizziness

___ yo female admitted with acute onset of dizziness that started 
on the morning of admission.  She reports that she awoke in the 
morning with abdominal pain that she attributes to eating old 
blue cheese the night before.  She then developed severe nausea 
and reports that she had at least 15 episodes of emesis - 
nonbloody.  She denies any chest pain, HA, SOB, numbness or 
weakness. No hearing loss. No recent URI. No tinnitus.  She also 
notes that she felt her L eye "spinning".  No recent headaches, 
visual changes, numbness, weakness, weight loss.

In ER: (Triage Vitals:96.8 60 131/86 18 100) Neurology was 
called and requested a non-con head CT which was normal. ___ 
___ positive.  Also noted to have asymptomatic tachycardia 
to 120 that on EKG with a known h/o SVT.  She received 25mg of 
metoprolol in the ED and her HR dropped into the high ___ on 
the floor.  

ROS:  
-Constitutional: [x]WNL []Weight loss []Fatigue/Malaise []Fever 
[]Chills/Rigors []Nightweats []Anorexia  
-Eyes: []WNL []Blurry Vision []Diplopia []Loss of Vision 
[]Photophobia  
-ENT: [x]WNL []Dry Mouth []Oral ulcers []Bleeding gums/nose 
[]Tinnitus []Sinus pain []Sore throat  
-Cardiac: [x]WNL []Chest pain []Palpitations ___ edema 
[]Orthopnea/PND []DOE  
-Respiratory: []WNL []SOB []Pleuritic pain []Hemoptysis []Cough  

-Gastrointestinal: []WNL []Nausea []Vomiting []Abdominal pain 
[]Abdominal Swelling []Diarrhea []Constipation []Hematemesis 
[]Hematochezia []Melena  
-Heme/Lymph: []WNL []Bleeding []Bruising []Lymphadenopathy  
-GU: []WNL []Incontinence/Retention []Dysuria []Hematuria 
[]Discharge []Menorrhagia  
-Skin: [x]WNL []Rash []Pruritus  
-Endocrine: []WNL []Change in skin/hair []Loss of energy 
[]Heat/Cold intolerance  
-Musculoskeletal: [x]WNL []Myalgias []Arthralgias []Back pain  
-Neurological: [x ]WNL []Numbness of extremities []Weakness of 
extremities []Parasthesias []Dizziness/Lightheaded []Vertigo 
[]Confusion []Headache  

 
Past Medical History:
borderline hyperlipidemia
h/o atrial tachycardia confirmed on holter in ___
Chronic low back pain
 
Social History:
___
Family History:
father had a possible heart attack, but died at ___
from stomach cancer. Mother had a stroke at ___ of age, but died
at ___ of other causes.  

 
Physical Exam:
VS: 96.9 122/74 51 16 99RA
Gen: Well appearing, no acute distress, awake, alert, 
appropriate, and oriented x 3 
Skin: warm to touch, no apparent rashes. 
HEENT: No conjunctival pallor, no scleral jaundice, PERRLA,  OP 
clear, no cervical LAD 
CV:  RRR no audible m/r/g, pulses 2+, no ___ edema
Lungs: clear to auscultation 
Abd: soft, NT, normal BS 
Ext: No C/C/E
Neuro: (neurology team)
Neurologic:  
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt. was able to name both high and low frequency objects. Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. There was no
evidence of apraxia or neglect.  

CN  
I: not tested  
II,III: VFF to confrontation, pupils 4mm->2mm bilaterally, fundi
normal  
III,IV,VI: EOMI, no ptosis. Right>left lateral gaze nystagmus  
V: sensation intact V1-V3 to LT  
VII: Facial strength intact/symmetrical, symm forehead wrinkling 


VIII: hears finger rub bilaterally  
IX,X: palate elevates symmetrically, uvula midline  
XI: SCM/trapezeii ___ bilaterally  
XII: tongue protrudes midline, no dysarthria  
Motor: Normal bulk and tone; no asterixis or myoclonus. No
pronator drift.  
Delt Bi Tri WE FE Grip IO  
C5 C6 C7 C6 C7 C8/T1 T1  
L ___ 5  
R ___ 5  
 
IP Quad ___ PF  
L2 L3 L4-S1 L4 L5 S1/S2  
L ___  
R ___  
Reflex: No clonus  
Bi Tri Bra Pat An Plantar  
C5 C7 C6 L4 S1 CST  
L ___ 2 ___ Flexor  
R ___ 2 ___ Flexor  
-Sensory: No deficits to light touch, pinprick. No extinction to
DSS. 
 
-Coordination: Mild action tremor bilaterally, NO
dysdiadochokinesia noted. No dysmetria on FNF or HKS 
bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing. When she stands up she tends to lean backwards. ___ in
place with slight retropulson component.

-___ positive for her symptoms and presence of 
nystagmus
and head trust positive with symptoms resolving within 2 
minutes.

 
Pertinent Results:
Admission labs:
CBC 4.9 > 12.9/38.8 < 225
Chem panel: 141 | 111 | 11 < 113
            3.8 | 22 | 0.5
LFTs 18 > 0.___ < 23
Albumin 3.7
UA negative

CT head 
IMPRESSION: No acute intracranial abnormality. Please note that 
MRI is more sensitive in detecting acute ischemia and if 
clinical concern persists, should be considered, if no 
contraindication.  

ECG:sinus brady RBBB. normal axis, not ST changes
ECG with tachycardia: atrial tachycardia with rate 120. No ST 
changes. 

TTE:
The left atrium is mildly elongated. Left ventricular wall 
thickness, cavity size and regional/global systolic function are 
normal (LVEF >55%). Transmitral and tissue Doppler imaging 
suggests normal diastolic function, and a normal left 
ventricular filling pressure (PCWP<12mmHg). Right ventricular 
chamber size and free wall motion are normal. The diameters of 
aorta at the sinus, ascending and arch levels are normal. The 
aortic valve leaflets (3) appear structurally normal with good 
leaflet excursion and no aortic stenosis. Trace aortic 
regurgitation is seen. The mitral valve appears structurally 
normal with trivial mitral regurgitation. There is no mitral 
valve prolapse. The estimated pulmonary artery systolic pressure 
is normal. There is no pericardial effusion. 

IMPRESSION: Normal biventricular cavity sizes with preserved 
global and regional biventricular systolic function. Trace 
aortic regurgitation. Frequent bursts of SVT.

 
Brief Hospital Course:
___ yo female admitted with peripheral vertigo likely secondary 
to BPPV. 

* Benign positional vertigo - She was seen in the ED by 
neurology who felt based on her positive ___, BPV was 
the likely etiology of her vertigo.  Another possibility could 
be vestibular neuronitis secondary to her gastroenteritis, but 
less likely based on her exam.  She was given IVF, antiemetics 
and meclizine PRN.  She was also instructed on the Epley 
maneuver and given a handout on this to practice at home.  She 
was seen by ___ and given instructions again re:vestibular 
training.  On the day of discharge, she was able to ambulate 
with a cane with only minimal dizziness.  Given the acuity of 
her symptoms and that the most likely etiology is BPV, further 
imaging with MRI was not pursued.  She did have a negative 
noncontrast head CT.

* Atrial tachycardia - She was noted to have atrial tachycardia 
on her EKG.  She did have a Holter monitor in ___ that 
documented this atrial rhythm and she was not placed on a beta 
blocker or CCB at the time.  She has never had symptoms of chest 
pain, shortness of breath, lightheadedness or dizziness.  She 
reports that she only sometimes feels her tachycardia.  She had 
a TTE which revealed normal biatrial systolic function.  Given 
that she was asymptomatic, she was not started on beta blockers 
and CCB given her acute episode of dizziness.  She was 
instructed to follow up with her primary care doctor ___ was 
emailed and made aware of this issue).  She was also instructed 
to return to the ED if she experience any of the above symptoms 
and she expressed understanding of this.  

All other medical issues remain stable and no further medication 
changes were made.
 
Medications on Admission:
none
 
Discharge Medications:
1. Meclizine 12.5 mg Tablet Sig: Two (2) Tablet PO Q8H (every 8 
hours) as needed for dizzy.
Disp:*20 Tablet(s)* Refills:*0*
2. ZOFRAN ODT 4 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
Rapid Dissolve PO every eight (8) hours as needed for nausea.
Disp:*15 Tablet, Rapid Dissolve(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Benign positional vertigo

Atrial tachycardia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted to the hospital with vertigo and were 
diagnosed with BPPV.  You were seen by the neurologists and you 
improved at the time of discharge.  I will give you a 
prescription for meclizine and you should take then when you 
feel dizzy.  You were also found to have atrial tachycardia, or 
a fast HR.  You were given a medication in the emergency room, 
but it decreased your heart rate.  You did not have chest pain, 
shortness of breath with this.  You will need to follow up with 
your primary care doctor regarding this issue.  If you notice 
that your heart remains elevated or is associated with chest 
pain, shortness of breath, lightheadedness or dizziness, then 
you should come to the emergency room

Medication changes:
1. Meclizine (for your dizziness) was added
2. Zofran was added for nausea
 
Followup Instructions:
___